US04497813
A solution of 49.8 g of 2,3-dihydro-2,2-dimethyl-6-(2-oxopropoxy)-4H-1,3-benzoxazin-4-one and 21.4 g of benzylamine in 700 ml of methanol is hydrogenated with the addition of 0.5 g of concentrated sulphuric acid and 3 g of Pt/C-catalyst (5%) until the equivalent amount of hydrogen has been asborbed. Working up analogously to Example (1d) yields 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one having a melting point of 127°-129° (from isopropanol).

reactant | 2,3-dihydro-2,2-dimethyl-6-(2-oxopropoxy)-4H-1,3-benzoxazin-4-one | 49.8 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC(C)=O)C | C13H15NO4
reactant | benzylamine | 21.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sulphuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 700 ml | CO | CH4O
catalyst | Pt/C | 3 g | [Pt] | Pt
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | C(C1=CC=CC=C1)NC(COC=1C=CC2=C(C(NC(O2)(C)C)=O)C1)C | C20H24N2O3
